US07091211B2
Step A: Methyl 1-(tert-butoxycarbonyl)piperidine-4-carboxylate
To a solution of BOC-isonipecotic acid (45.0 g, 0.20 mol) dissolved in a 3:1 solution of dichloromethane/methanol (1200 mL) at 0° C. was added a solution of trimethylsilyldiazomethane (147 mL, 0.29 mol, 2.0M in hexane) over 30 min via an addition funnel. The reaction mixture was then concentrated to afford the title compound (47 g) as a light yellow oil. This was used directly in the next step without further purification.

reactant | BOC-isonipecotic acid | 0.20 mol, 45.0 g | C(=O)(OC(C)(C)C)N1CCC(C(=O)O)CC1 | C11H19NO4
reactant | trimethylsilyldiazomethane | 0.29 mol, 2.0M, 147 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | dichloromethane methanol | 1200 mL | ClCCl.CO
product | Methyl 1-(tert-butoxycarbonyl)piperidine-4-carboxylate | 47 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)OC | C12H21NO4
